US05273999
A solution of 4.22 g (12.06 mmol) of 2-[[5-(acetoxy)pentyl]oxy]-5-acetylbenzenepropanoic acid methyl ester and 0.1 g of p-toluenesulfonic acid monohydrate in 50 mL of methanol was stirred and refluxed for 3.5 hr and stirred at room temperature for 21 hr. Most of the methanol was removed in vacuo and the residue was diluted with water and worked-up with ether in the usual manner (the combined ether extracts were additionally washed with saturated aqueous sodium bicarbonate). The product was purified by flash chromatography on silica gel, eluting with 1:2 hexane-ethyl acetate. There was obtained 3.6 g (97%) of 2-[[5-(acetoxy)pentyl]oxy]phenyl]-2-propenoic hydroxypentyl)oxy]-5-acetylbenzenepropanoic acid methyl ester as a viscous oil.

reactant | 2-[[5-(acetoxy)pentyl]oxy]-5-acetylbenzenepropanoic acid methyl ester | 12.06 mmol, 4.22 g | COC(CCC1=C(C=CC(=C1)C(C)=O)OCCCCCOC(C)=O)=O | C19H26O6
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 50 mL | CO | CH4O
product | 5-acetylbenzenepropanoic acid methyl ester | COC(CCC1=CC=CC(=C1)C(C)=O)=O | C12H14O3
